US06344459B1
1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (212 mg, 1.1 mmol) was added to a solution of 6-amino-4[(3-(trifluoromethyl)phenyl)amino]quinazoline (153 mg, 0.5 mmol) acrylic acid (73 mg, 1.0 mmol) and pyridine (206 mg, 2.5 nmmol) in THF/DMF (4:1, 2.5 mL), stirred under nitrogen at 0° C. After 15 minutes the reaction mixture was stirred at 25° C. for 1 hour, and then recooled to 0° C. Dilute hydrochloric acid (0.5 M, 10 mL) was added, and after 15 minutes the precipitate was collected by Buchner filtration. The residue was rinsed with water (5 mL) and ether (2×5 mL) and dried in a vacuum oven at 75° C. overnight to give N-[4-[(3-(trifluoromethyl) phenyl)amino]quinazolin-6-yl]acrylamide hydrochloride (87 mg, 45%) as a light greenish solid, mp 195-199° C.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.1 mmol, 212 mg | Cl.CN(CCCN=C=NCC)C
reactant | 6-amino-4[(3-(trifluoromethyl)phenyl)amino]quinazoline | 0.5 mmol, 153 mg | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)C(F)(F)F | C15H11F3N4
reactant | pyridine | 206 mg | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 0.5 M, 10 mL | Cl | ClH
reactant | THF DMF | 2.5 mL | C1CCOC1.CN(C)C=O
product | N-[4-[(3-(trifluoromethyl) phenyl)amino]quinazolin-6-yl]acrylamide hydrochloride | 87 mg, 45% | Cl.FC(C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=C)=O)(F)F | InChI=1S/C18H13F3N4O.ClH/c1-2-16(26)24-13-6-7-15-14(9-13)17(23-10-22-15)25-12-5-3-4-11(8-12)18(19,20)21;/h2-10H,1H2,(H,24,26)(H,22,23,25);1H
